US09388161B2
A solution of crude (R)-4-(2-amino-6-(methoxymethoxy)phenyl)butan-2-ol (2.60 g, 11.54 mmol) and pyridine (2.80 mL, 34.6 mmol) in dichloromethane (52 mL) was cooled to 0° C. and treated with acetic anhydride (1.14 mL, 12.1 mmol). The ice bath was removed and the reaction mixture stirred at room temperature. After 45 min, the solution was washed with 5% aqueous sodium chloride solution (2×20 mL) and then concentrated under reduced pressure. Toluene (ca. 100 mL) was added and the mixture was concentrated. The residue was purified by column chromatography on silica gel (gradient elution with 25-100% ethyl acetate-hexanes) to afford (R)—N-(2-(3-hydroxybutyl)-3-(methoxymethoxy)phenyl)acetamide (2.7 g, 88%) as a pale yellow syrup. MS (ESI, pos. ion) m/z 290 [M+23]+.

reactant | (R)-4-(2-amino-6-(methoxymethoxy)phenyl)butan-2-ol | 11.54 mmol, 2.60 g | NC1=C(C(=CC=C1)OCOC)CC[C@@H](C)O | C12H19NO3
reactant | pyridine | 34.6 mmol, 2.80 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 12.1 mmol, 1.14 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 52 mL | ClCCl | CH2Cl2
product | (R)—N-(2-(3-hydroxybutyl)-3-(methoxymethoxy)phenyl)acetamide | 2.7 g, 88% | O[C@@H](CCC1=C(C=CC=C1OCOC)NC(C)=O)C | C14H21NO4
